US04918074
To 1-phenyl-2-piperidinoethyl α-acetyl-3-nitrocinnamate prepared from 7.5 g of 3-nitrobenzaldehyde and 14.5 g of 1-phenyl-2-piperidinoethyl acetoacetate is added a solution of 4.2 g of 3-aminopyrazole in ethanol, and then stirred at 50° C. for 3 hours. The mixture is concentrated at reduced pressure, and the residue is purified by column chromatography on silica gel with chloroform-ethyl acetate-ethanol eluents to give two forms of diastereromers. The initally eluated solution is concentrated and the residue is recrystallized from ethanol to give one form (α-form) of diastereomer of 1-phenyl-2-piperidinoethyl 5-methyl-7-(3-nitrophenyl)-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate, melting at 92°-93° C. Then, the subsequently eluated solution is concentrated and the residue is recrystallized from ethanol to give the other form (β-form) of diastereomer of 1-phenyl-2-piperidinoethyl 5-methyl-7-(3-nitrophenyl)-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate, melting at 191°-192° C.

reactant | 1-phenyl-2-piperidinoethyl α-acetyl-3-nitrocinnamate | C(C)(=O)C(C(=O)OC(CN1CCCCC1)C1=CC=CC=C1)=CC1=CC(=CC=C1)[N+](=O)[O-] | C24H26N2O5
reactant | 3-nitrobenzaldehyde | 7.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 1-phenyl-2-piperidinoethyl acetoacetate | 14.5 g | C(CC(=O)C)(=O)OC(CN1CCCCC1)C1=CC=CC=C1 | C17H23NO3
reactant | 3-aminopyrazole | 4.2 g | NC1=NNC=C1 | C3H5N3
solvent | ethanol | C(C)O | C2H6O
product | 1-phenyl-2-piperidinoethyl 5-methyl-7-(3-nitrophenyl)-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate | CC=1NC=2N(C(C1C(=O)OC(CN1CCCCC1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])N=CC2 | C27H29N5O4
